US07348438B2
2-(5,6-Dichloro-1-ethyl-1H-benzoimidazol-2-yl)-1-ethylsulfanyl-propan-2-ol
To 1-chloro-2-(5,6-dichloro-1-ethyl-1H-benzoimidazol-2-yl)-propan-2-ol (161 mg) in methanol (5 mL) at room temperature was added a solution of ethanethiol (37 mg) and sodium methoxide (0.144 mls of 25 wt % in MeOH). The resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with NH4Cl (aq), extracted with EtOAc, and dried over Na2SO4. The crude product was purified by flash chromatography (10%-40% EtOAc/hexanes) to yield the title compound as an off-white solid.

reactant | 1-chloro-2-(5,6-dichloro-1-ethyl-1H-benzoimidazol-2-yl)-propan-2-ol | 161 mg | ClCC(C)(O)C1=NC2=C(N1CC)C=C(C(=C2)Cl)Cl | C12H13Cl3N2O
reactant | ethanethiol | 37 mg | C(C)S | C2H6S
reactant | sodium methoxide | 0.144 mls | C[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-(5,6-Dichloro-1-ethyl-1H-benzoimidazol-2-yl)-1-ethylsulfanyl-propan-2-ol | ClC1=CC2=C(N(C(=N2)C(CSCC)(C)O)CC)C=C1Cl | C14H18Cl2N2OS
